### PR TITLE
feat(QuantumMechanics) : Prove potentialOperator_isSelfAdjoint

### PR DESCRIPTION
**Pull request by ereinhardt8**
This pull request provides a proof for the lemma `potentialOperator_isSelfAdjoint` in `Physlib/QuantumMechanics/RectangularBarrier/Basic.lean`, which was previously an informal_lemma. Also, it proves `potentialFunction_aestronglyMeasurable` because `potentialOperator_isSelfAdjoint` uses it. 

## Specific Changes

Two informal lemmas were formalized and proved:

- `RectangularBarrier.potentialFunction_aestronglyMeasurable` : formalize and prove that the potential function of a rectangular barrier is almost everywhere strongly measurable 
- `RectangularBarrier.potentialOperator_isSelfAdjoint` : prove that the potential function of a rectangular barrier is self adjoint using the above lemma 

## Reviewer Guide

I fixed any linting issues found in `Physlib/QuantumMechanics/RectangularBarrier/Basic.lean` after I ran `lake exe lint_all` and `./scripts/lint-style.sh` locally. 

The lemma `potentialFunction_aestronglyMeasurable` was only proved for the canonical `volume` measure. Is this an issue? 

## Additional Comments
I wrote the code, but used ChatGPT and Google Search to suggest approaches and next steps. 

Thank you!

### CODE REVIEW

File: Physlib/QuantumMechanics/RectangularBarrier/Basic.lean [hunk 1]
```diff
@@ -119,9 +124,13 @@ def kineticOperator : Q.HS →ₗ.[ℂ] Q.HS := (2 * Q.m)⁻¹ • momentumSqOpe
...
-informal_lemma potentialOperator_isSelfAdjoint where
-  deps := [``RectangularBarrier]
-  tag := "QM-RB-sa"
+lemma potentialOperator_isSelfAdjoint (Q : RectangularBarrier) :
+    IsSelfAdjoint Q.potentialOperator := by
+  unfold IsSelfAdjoint; unfold potentialOperator
+  rw [mulOperator_isSelfAdjoint_ofReal]
+  swap; ext x; simp only [Function.comp_apply, Complex.conj_ofReal]
+  have hQ := potentialFunction_aestronglyMeasurable
+  fun_prop
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/RectangularBarrier/Basic.lean:136]: Hey @ereinhardt8 Many thanks for this first PR! Just one comment from me before this can be merged. It would be convention to not to have more then one tactic on a line e.g. `swap; ext x; simp [...]` should be three separate lines. Other then that, this PR looks great!

**Comment by jstoobysmith** [comment]
awaiting-author

**Comment by ereinhardt8** [comment]
Okay! I separated the lines that had multiple tactics. 
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Great! Many thanks! I've approved, and when the linters finish, I will merge this. So nothing else you need to do here. 

Many thanks for this first PR! Hopefully the first of many.
